US03953478
3-bromoacetoxy tetrahydrofuran
In a four-neck, 2-liter flask, 42.5 g (0.48 mole) 3-hydroxy tetrahydrofuran was dissolved in 600 ml benzene. The resultant solution was cooled to below 20°C in an ice-water bath. 135.3 g (58.4 ml, 0.67 mole) bromoacetyl bromide was then added to the solution. 75.9 g (77.6 ml, 0.96 mole) pyridine was added dropwise to the solution over a 30-minute period. When the addition was complete, stirring was continued for 1 hour at the above temperature. The reaction mixture was then removed from the cooling bath and allowed to come to room temperature. The solution was first washed with 350 ml of water, then with 100 ml 1N HCl, and finally with 100 ml saturated NaHCO3 solution. The remaining benzene solution was dried with MgSO4 and filtered. The benzene solvent was removed by evaporation in vacuo, leaving the product oil. The yield was 70.1 g, or 69.9% of the theoretical yield of 100.3 g. The refractive index of the product was nD30 = 1.5022. The structure of the product was confirmed by spectral evidence. Epichlorohydrin (1% by weight) was added as a stabilizer.

reactant | 3-hydroxy tetrahydrofuran | 0.48 mole, 42.5 g | OC1COCC1 | C4H8O2
reactant | bromoacetyl bromide | 0.67 mole, 58.4 ml, 135.3 g | BrCC(=O)Br | C2H2Br2O
reactant | pyridine | 0.96 mole, 77.6 ml, 75.9 g | N1=CC=CC=C1 | C5H5N
reactant | Epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | benzene | 600 ml | C1=CC=CC=C1 | C6H6
product | 3-bromoacetoxy tetrahydrofuran | BrCC(=O)OC1COCC1 | C6H9BrO3
